US05821330
Leu:
1.3 (1), Lys:5.7 (6), Cys:-(2).

reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Cys | N[C@@H](CS)C(=O)O | C3H7NO2S
product | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
